US05672715
To a solution of 0.5 g 2-chloro-4-fluoro-5-[4-(hydroxymethyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]benzoic acid, 1-methylethyl ester in 50 ml methylene chloride was added 5 mL of diethyl aminosulfurtrifluoride and the solution stirred overnight at room temperature. The reaction mixture was poured onto ice water and the organic layer washed with brine, dried over anhydrous magnesium sulfate, filtered and the concd in vacuo to give 2-chloro-4-fluoro-5-[4-(fluoromethyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]benzoic acid, 1-methylethyl ester as a tan solid: mp 74° C.; 1HNMR (CDCl3) δ 8.02 (d, 1H, J=8.0), 7.30 (d, 1H, J=9.6), 5.29 (d, 2H, J=48.0), 5.26 (m, 1H, J=6.0), 4.09 (s, 3H), 1.37 (d, 6H, J=6.4).

reactant | 2-chloro-4-fluoro-5-[4-(hydroxymethyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]benzoic acid, 1-methylethyl ester | 0.5 g | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)C1=NN(C(=C1CO)C(F)(F)F)C | C16H15ClF4N2O3
reactant | diethyl aminosulfurtrifluoride | 5 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-4-fluoro-5-[4-(fluoromethyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]benzoic acid, 1-methylethyl ester | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)C1=NN(C(=C1CF)C(F)(F)F)C | C16H14ClF5N2O2
